US05985882
Preparation of 5-(3-hydroxybutyl)-7-(4-pyridylmethoxy)-pyrazolo[1,5-a]pyrimidine
The procedure of Example 1 was followed except using 340 mg of 4-(hydroxymethyl)pyridine, 280 mg of 5-(3-acetoxybutyl)-7-chloropyrazolo[1,5-a]pyrimidine and 105 mg of 60% sodium hydride and using DMF as a solvent. The title compound was obtained as colorless crystals (50 mg). The structure and melting point of the compound obtained are shown in Table 1.

reactant | 4-(hydroxymethyl)pyridine | 340 mg | OCC1=CC=NC=C1 | C6H7NO
reactant | 5-(3-acetoxybutyl)-7-chloropyrazolo[1,5-a]pyrimidine | 280 mg | C(C)(=O)OC(CCC1=NC=2N(C(=C1)Cl)N=CC2)C | C12H14ClN3O2
reactant | sodium hydride | 105 mg | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(3-hydroxybutyl)-7-(4-pyridylmethoxy)-pyrazolo[1,5-a]pyrimidine | OC(CCC1=NC=2N(C(=C1)OCC1=CC=NC=C1)N=CC2)C | C16H18N4O2
